US06875822B2
The reaction was proceeded by the method described in Example 1. 20.8G of PCl5 was reacted with 19.6 g of 4-methylbenzophenone to give 22.9 g(purity 87%, yield 79%) of 4-methylbenzophenone dichloride as a pale yellow liquid.

reactant | PCl5 | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | 4-methylbenzophenone | 19.6 g | CC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C14H12O
product | 4-methylbenzophenone dichloride | 22.9 g, yield 79% | [Cl-].[Cl-].CC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | InChI=1S/C14H12O.2ClH/c1-11-7-9-13(10-8-11)14(15)12-5-3-2-4-6-12;;/h2-10H,1H3;2*1H/p-2
